US05382592
5-Nitro-2-trimethylsilyl-3-(2-t-butyldimethylsiloxyethyl)indole (14)
A mixture of 2-iodo-4-nitroaniline (7.92 g, 0.030 mol), 1-(trimethylsilyl)-4-(t-butyldimethylsiloxy)-1-butyne (15.36 g, 0.060 mol), potassium acetate (14.70 g, 0.15 mol), lithium chloride (1.27 g, 0.030 mol) and palladium (II) acetate (0.675 g, 0.003 mol) in 100 mL of dry DMF was heated at 70° C. (oil-bath temperature) under Ar for 2.5 h. The cooled reaction mixture was diluted with ether and the aqueous phase was separated and extracted with ethyl acetate. The combined organic phases were washed (H2O, brine), dried (Na2SO4) and evaporated. The resulting residue was chromatographed (SiO2 /hexane-ethyl acetate, 4:1) to give a dark orange solid which was rechromatographed (SiO2 /hexane-CH2Cl2, 4:1 to 6:4) to give the title compound (5.00 g, 42%) as a yellow solid: IR (neat) 3414, 1328, 1253, 845 cm-1 ; 1H NMR (CDCl3, 200 MHz) δ 8.63 (d, J=2.2 Hz, 1H), 8.21 (br s, 1H), 8.09 (dd, J=9.0, 2.2 Hz, 1H), 7.35 (d, J=9.0 Hz, 1H), 3.84 (t, J=7.2 Hz, 2H), 3.09 (t, J=7.2 Hz, 2H), 0.85 (s, 9H), 0.42 (s, 9H), -0.01 (s, 6H).

reactant | 2-iodo-4-nitroaniline | 0.030 mol, 7.92 g | IC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5IN2O2
reactant | 1-(trimethylsilyl)-4-(t-butyldimethylsiloxy)-1-butyne | 0.060 mol, 15.36 g | C[Si](C#CCCO[Si](C)(C)C(C)(C)C)(C)C | C13H28OSi2
reactant | potassium acetate | 0.15 mol, 14.70 g | C(C)(=O)[O-].[K+]
reactant | lithium chloride | 0.030 mol, 1.27 g | [Cl-].[Li+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
catalyst | palladium (II) acetate | 0.003 mol, 0.675 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Nitro-2-trimethylsilyl-3-(2-t-butyldimethylsiloxyethyl)indole | 5.00 g, 42% | [N+](=O)([O-])C=1C=C2C(=C(NC2=CC1)[Si](C)(C)C)CCO[Si](C)(C)C(C)(C)C | C19H32N2O3Si2
